US05254558
Ethyl 3-pyridinecarboximidate hydrochloride and aminoacetaldehyde dimethyl acetal were subjected to a procedure similar to that described in Example 8.b. to provide pure N-(2,2-dimethoxyethyl)-3-pyridinecarboxamidine as an oil; MS: m/z=210(M+1).

reactant | Ethyl 3-pyridinecarboximidate hydrochloride | Cl.N1=CC(=CC=C1)C(OCC)=N
reactant | aminoacetaldehyde dimethyl acetal | COC(CN)OC | C4H11NO2
product | N-(2,2-dimethoxyethyl)-3-pyridinecarboxamidine | COC(CNC(=N)C=1C=NC=CC1)OC | C10H15N3O2
